* CTLE eye vs channel loss — PRBS7 at 600.6 Mb/s.
* Three RC channels (500 ohm x 1p/2p/4p, i.e. poles at 318/159/80 MHz) are driven
* in parallel from the same ideal source, and each feeds both the as-drawn CTLE
* and the retuned one.  One transient, nine waveforms, all directly comparable.
.lib /home/ttuser/pdk/sky130A/libs.tech/ngspice/sky130.lib.spice tt
.include ctle_baseline.inc
.include ctle_p2.inc
.include prbs.inc

.param vcm=0.9
.param vb=0.9
.param cload=50f
.param rch=500
.param amp=0.2

VDD  VDD 0 1.8
VSS  VSS 0 0
Vb   vbias 0 'vb'

Esp  srcp 0 vol='vcm + amp*0.5*(v(dsrc)-0.5)'
Esm  srcm 0 vol='vcm - amp*0.5*(v(dsrc)-0.5)'

* --- channel A: 1 pF (f_p = 318 MHz) ---
Rap srcp inap 'rch'
Ram srcm inam 'rch'
Cap inap 0 1p
Cam inam 0 1p
xba baoutp baoutm inap inam VDD VSS vbias CTLE
Cbap baoutp 0 'cload'
Cbam baoutm 0 'cload'
xta taoutp taoutm inap inam VDD VSS vbias ctle_p2
Ctap taoutp 0 'cload'
Ctam taoutm 0 'cload'

* --- channel B: 2 pF (f_p = 159 MHz) ---
Rbp srcp inbp 'rch'
Rbm srcm inbm 'rch'
Cbp inbp 0 2p
Cbm inbm 0 2p
xbb bboutp bboutm inbp inbm VDD VSS vbias CTLE
Cbbp bboutp 0 'cload'
Cbbm bboutm 0 'cload'
xtb tboutp tboutm inbp inbm VDD VSS vbias ctle_p2
Ctbp tboutp 0 'cload'
Ctbm tboutm 0 'cload'

* --- channel C: 4 pF (f_p = 80 MHz) ---
Rcp srcp incp 'rch'
Rcm srcm incm 'rch'
Ccp incp 0 4p
Ccm incm 0 4p
xbc bcoutp bcoutm incp incm VDD VSS vbias CTLE
Cbcp bcoutp 0 'cload'
Cbcm bcoutm 0 'cload'
xtc tcoutp tcoutm incp incm VDD VSS vbias ctle_p2
Ctcp tcoutp 0 'cload'
Ctcm tcoutm 0 'cload'

.options method=gear reltol=1e-4 abstol=1e-13 vntol=1e-7

.control
  alterparam Lload = 20
  alterparam Ldeg  = 1.5
  alterparam Wcap  = 18
  reset
  tran 10p 127n 0 20p
  linearize
  let ina = v(inap)-v(inam)
  let inb = v(inbp)-v(inbm)
  let inc = v(incp)-v(incm)
  let ba  = v(baoutp)-v(baoutm)
  let bb  = v(bboutp)-v(bboutm)
  let bc  = v(bcoutp)-v(bcoutm)
  let ta  = v(taoutp)-v(taoutm)
  let tb  = v(tboutp)-v(tboutm)
  let tc  = v(tcoutp)-v(tcoutm)
  wrdata eye2.dat ina inb inc ba bb bc ta tb tc
.endc
.end
