* Eye at the PVT extremes, on the spec-worst TT pin channel.
* Everything in C17 is tt/27C/1.8V; C18 qualified the corners in AC only, and AC
* gain does not translate linearly into eye opening.  This is the check that the
* 0.430 UI of timing margin survives the corner box.
* MOS corner comes from the .lib line (this file is copied per corner).
.lib /home/ttuser/pdk/sky130A/libs.tech/ngspice/sky130.lib.spice tt
.include ctle_p2.inc
.include prbs.inc

.param vcm=0.9
.param amp=0.2
.param cload=50f

VDD  VDD 0 1.8
VSS  VSS 0 0
Vb   vbias 0 0.9

Esp  srcp 0 vol='vcm + amp*0.5*(v(dsrc)-0.5)'
Esm  srcm 0 vol='vcm - amp*0.5*(v(dsrc)-0.5)'

Rap srcp inap 500
Ram srcm inam 500
Cap inap 0 5p
Cam inam 0 5p
xta taoutp taoutm inap inam VDD VSS vbias ctle_p2
Ctap taoutp 0 'cload'
Ctam taoutm 0 'cload'

.options method=gear reltol=1e-4 abstol=1e-13 vntol=1e-7

.control
  alterparam Win   = 20
  alterparam Lload = 20
  alterparam Ldeg  = 5.0
  alterparam Wcap  = 18
  foreach cnr 125_1.62 -40_1.98
    if "$cnr" eq "125_1.62"
      set temp = 125
      alter VDD = 1.62
    end
    if "$cnr" eq "-40_1.98"
      set temp = -40
      alter VDD = 1.98
    end
    reset
    tran 10p 211.5n 0 20p
    meas tran ocm AVG v(taoutp) from=100n to=211n
    linearize
    let ina = v(inap)-v(inam)
    let ta  = v(taoutp)-v(taoutm)
    wrdata tmp.dat ina ta
    shell echo ""
    shell echo "#EYE $cnr"
    shell cat tmp.dat
  end
  shell rm -f tmp.dat
.endc
.end
