* Edge check: is the eye-WIDTH optimum outside the eye_tt3/eye_tt4 grid?
* Ldeg 4.0 / Wcap 21 was best on width and the trend still favoured less cap.  Boost is capped by gm*Rdeg, so more gm is
* the only lever left once Ldeg/Wcap have flattened out (eye_tt3.log).  Win costs
* current and input capacitance, and the input cap sits directly across the
* channel's 5 pF, so this has to be paid for -- hence the itot measurement.
* Wcap fixed at 21 and Ldeg at the eye_tt3 plateau.
.lib /home/ttuser/pdk/sky130A/libs.tech/ngspice/sky130.lib.spice tt
.include ctle_p2.inc
.include prbs.inc

.param vcm=0.9
.param amp=0.2
.param cload=50f

VDD  VDD 0 1.8
VSS  VSS 0 0
Vb   vbias 0 0.9

Esp  srcp 0 vol='vcm + amp*0.5*(v(dsrc)-0.5)'
Esm  srcm 0 vol='vcm - amp*0.5*(v(dsrc)-0.5)'

Rap srcp inap 500
Ram srcm inam 500
Cap inap 0 5p
Cam inam 0 5p
xta taoutp taoutm inap inam VDD VSS vbias ctle_p2
Ctap taoutp 0 'cload'
Ctam taoutm 0 'cload'

Rcp srcp incp 200
Rcm srcm incm 200
Ccp incp 0 1.5p
Ccm incm 0 1.5p
xtc tcoutp tcoutm incp incm VDD VSS vbias ctle_p2
Ctcp tcoutp 0 'cload'
Ctcm tcoutm 0 'cload'

.options method=gear reltol=1e-4 abstol=1e-13 vntol=1e-7

.control
  foreach wi 20
    foreach ldg 6.0 8.0
      foreach wc 18 21
      alterparam Win   = $wi
      alterparam Lload = 20
      alterparam Ldeg  = $ldg
      alterparam Wcap  = $wc
      reset
      tran 10p 211.5n 0 20p
      meas tran itot AVG i(VDD)      from=100n to=211n
      meas tran ocm  AVG v(tcoutp)   from=100n to=211n
      linearize
      let ina = v(inap)-v(inam)
      let inc = v(incp)-v(incm)
      let ta  = v(taoutp)-v(taoutm)
      let tc  = v(tcoutp)-v(tcoutm)
      wrdata tmp.dat ina inc ta tc
      shell echo ""
      shell echo "#EYE Win $wi Ldeg $ldg Wcap $wc"
      shell cat tmp.dat
      end
    end
  end
  shell rm -f tmp.dat
.endc
.end
